US05385933
S-(methylthio)-DL-homocysteine was prepared from DL-homocysteine (Research Organics, Inc., Cleveland, Ohio) and methyl methanethiosulfonate (Fairfield Chemical Company, Blythewood, S.C.) by a modification of the methylthiolation of L-cysteine as described by Smith et al. (Biochemistry, 14, 766-771 (1975)). The L-enantiomorph, L-SMETH, was prepared following reduction of L-homocysteine (Sigma Chemical Company, St. Louis, Mo.) with sodium in liquid ammonia. The excess sodium was removed by the addition of ammonium chloride and the ammonia evaporated at room temperature under nitrogen. The residue was dissolved in oxygen-free water and the solution was neutralized to pH 6.5-7.0 with hydrochloric acid. A 1.25 molar excess of methyl methanethiosulfonate in ethanol was added slowly and the product crystallized after two hours in an ice bath. The crystals were washed with ethanol and peroxide-free ether and dried over phosphorus pentoxide. An analysis was conducted (performed by Atlantic Microlab. Inc., Atlanta, Ga.) for SMETH, which was calculated as C, 33.13; H, 6.12; N, 7.73; and S, 35.37. Similarly, DL-SMETH was calculated as C, 33.21; H, 6.12; N, 7.71; and S, 35.28. L-SMETH was calculated as C, 33.19; H, 6.12; N, 7.68; and S, 35.30. The racemate was resolved into two peaks and the chiral purity of L-SMETH was determined to be at least 99.9% by column chromatography using a resolving column.

reactant | DL-homocysteine | NC(CCS)C(=O)O | C4H9NO2S
reactant | methyl methanethiosulfonate | CS(=O)(OC)=S | C2H6O2S2
reactant | L-cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | L-homocysteine | N[C@@H](CCS)C(=O)O | C4H9NO2S
reactant | sodium | [Na] | Na
reactant | ammonia | N | H3N
product | S-(methylthio)-DL-homocysteine | CSSCCC(N)C(=O)O | C5H11NO2S2
